US08183380B2
N-[2-((R)-Indan-1-ylamino)-quinolin-6-yl]-acetamide
(R)—N2-indan-1-yl-quinoline-2,6-diamine (551 mg, 2 mmol) was dissolved in acetic acid (5 mL) then acetic anhydride (378 ul, 4 mmol) was added and the mixture was stirred at for 16 h. The reaction mixture was extracted with ethyl acetate and sat. NaHCO3-sol., the organic layers were combined, dried over MgSO4, filtered and the solvents evaporated to give the title compound as a light brown foam (640 mg, 100%); MS: m/e=318.1 (M+H+).

reactant | (R)—N2-indan-1-yl-quinoline-2,6-diamine | 2 mmol, 551 mg | [C@H]1(CCC2=CC=CC=C12)NC1=NC2=CC=C(C=C2C=C1)N | C18H17N3
reactant | acetic anhydride | 4 mmol, 378 ul | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | N-[2-((R)-Indan-1-ylamino)-quinolin-6-yl]-acetamide | 640 mg, 100% | [C@H]1(CCC2=CC=CC=C12)NC1=NC2=CC=C(C=C2C=C1)NC(C)=O | C20H19N3O
